datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CCOC(=O)c1cccc([O-:10])c1.Nc1ccc(S(=O)(=O)[N:21](c2ccc(S(N)(=O)=O)cc2)[H:20])cc1>>CCOC(=O)c1cccc([O:10][H:20])c1.Nc1ccc(S(=O)(=O)[N-:21]c2ccc(S(N)(=O)=O)cc2)cc1 10=20;20,21=21",
"CC[As](CC)(CC)=[O:10].O=[Se](c1ccccc1)[O:21][H:20]>>CC[As](CC)(CC)=[O+:10][H:20].O=[Se](c1ccccc1)[O-:21] 10=20;20,21=21",
"CC(=O)NCC[S-:10].Cc1c(Cl)c([N+](=O)[O-])cc2c1nnn2[O:21][H:20]>>CC(=O)NCC[S:10][H:20].Cc1c(Cl)c([N+](=O)[O-])cc2c1nnn2[O-:21] 10=20;20,21=21",
"C[NH+](C)C(O)[O-:10].c1cncc(CCCC[NH2+:21][H:20])c1>>C[NH+](C)C(O)[O:10][H:20].c1cncc(CCCC[NH2:21])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1cccc(C[NH2:10])c1OC>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1cccc(C[NH2+:10][H:20])c1OC 10=20;20,21=21",
"NC(=O)c1cc(-c2ccccc2)nnc1[N:21](CCN1CCOCC1)[H:20].O=C([O-])C([NH2+]CC[NH:10]C(C(=O)[O-])c1ccccc1O)c1ccccc1O>>NC(=O)c1cc(-c2ccccc2)nnc1[N-:21]CCN1CCOCC1.O=C([O-])C([NH2+]CC[NH+:10](C(C(=O)[O-])c1ccccc1O)[H:20])c1ccccc1O 10=20;20,21=21",
"CCc1ccccc1C(=O)[O:21][H:20].O=C(c1ccccc1)c1ccc([O-:10])c(O)c1>>CCc1ccccc1C(=O)[O-:21].O=C(c1ccccc1)c1ccc([O:10][H:20])c(O)c1 10=20;20,21=21",
"COc1ccc2c3c1O[C@@H]1C(=O)CC[C@]4(O)[C@H](C2)[N+:21](C)([H:20])CC[C@@]314.O=C(c1ccc(CCl)cc1)[O-:10]>>COc1ccc2c3c1O[C@@H]1C(=O)CC[C@]4(O)[C@H](C2)[N:21](C)CC[C@@]314.O=C(c1ccc(CCl)cc1)[O:10][H:20] 10=20;20,21=21",
"COc1ccc(-c2cnc(-c3ccc([NH2:10])cc3)o2)cc1.O=C(CC#Cc1ccccc1)[O:21][H:20]>>COc1ccc(-c2cnc(-c3ccc([NH2+:10][H:20])cc3)o2)cc1.O=C(CC#Cc1ccccc1)[O-:21] 10=20;20,21=21",
"CC[NH:10]C(C)C.O=C1OC2=C(C=CC=C2)[CH:21]1[H:20]>>CC[NH+:10](C(C)C)[H:20].O=C1OC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"C[C@]1([NH3+])C[C@@H]1[NH2:10].Clc1cccc([O:21][H:20])c1>>C[C@]1([NH3+])C[C@@H]1[NH2+:10][H:20].Clc1cccc([O-:21])c1 10=20;20,21=21",
"CCC[NH:10]Cc1ccccc1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>CCC[NH+:10](Cc1ccccc1)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CCc1[nH]c2cc3c(cc2[n:10]1)CCCC3.Cc1ccn(-c2cccc[nH+]2)[n+:21]1[H:20]>>CCc1[nH]c2cc3c(cc2[n+:10]1[H:20])CCCC3.Cc1ccn(-c2cccc[nH+]2)[n:21]1 10=20;20,21=21",
"Cc1ccc(S(=O)[O:21][H:20])cc1.Cc1ccc([S-:10])cc1>>Cc1ccc(S(=O)[O-:21])cc1.Cc1ccc([S:10][H:20])cc1 10=20;20,21=21",
"CC(C)(C)[N:10](C)C.NS(=O)(=O)c1ccc([NH2+:21][H:20])cc1>>CC(C)(C)[N+:10](C)(C)[H:20].NS(=O)(=O)c1ccc([NH2:21])cc1 10=20;20,21=21",
"C=CCC(=O)[O-:10].Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O:21][H:20])c1>>C=CCC(=O)[O:10][H:20].Cc1ccc(O)c(Cc2cc(C)cc([N+](=O)[O-])c2[O-:21])c1 10=20;20,21=21",
"C[NH+](C)CCc1c[nH]c2cccc([O-:10])c12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>C[NH+](C)CCc1c[nH]c2cccc([O:10][H:20])c12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].COc1ccc(C(O)C[NH2:10])cc1>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.COc1ccc(C(O)C[NH2+:10][H:20])cc1 10=20;20,21=21",
"CC(C)(C)Cc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)(C)Cc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"N/C(CC[NH3+])=[N:10]/O.O=C(CF)[O:21][H:20]>>N/C(CC[NH3+])=[N+:10](/O)[H:20].O=C(CF)[O-:21] 10=20;20,21=21",
"Nc1n(-c2ccc(Cl)cc2)nn[n:10]1.[O-]c1[nH+]cnc2c1[nH]c[n+:21]2[H:20]>>Nc1n(-c2ccc(Cl)cc2)nn[n+:10]1[H:20].[O-]c1[nH+]cnc2c1[nH]c[n:21]2 10=20;20,21=21",
"[H:20][O:21]C(=O)C(Cl)Cl.[CH-:10]1C2=C(C=CC=C2)SC1=O>>[H:20][CH:10]1C2=C(C=CC=C2)SC1=O.C(C(=O)[O-:21])(Cl)Cl 10=20;20,21=21",
"Cc1cccc(OCC(=O)[O-:10])c1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2+:21][H:20]>>Cc1cccc(OCC(=O)[O:10][H:20])c1.O=C(Oc1ccc([N+](=O)[O-])cc1)[C@H]1CCCC[C@@H]1[NH2:21] 10=20;20,21=21",
"CC(C[N+:21](C)(C)[H:20])C(C#N)(c1ccccc1)c1ccccc1.C[N:10](C)c1ccc(NC(=O)/C=N/O)cc1>>CC(C[N:21](C)C)C(C#N)(c1ccccc1)c1ccccc1.C[N+:10](C)(c1ccc(NC(=O)/C=N/O)cc1)[H:20] 10=20;20,21=21",
"O=C([O-])CCCC[NH2:10].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C([O-])CCCC[NH2+:10][H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C1CNC[NH:10]C1.C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1>>C1CNC[NH+:10]([H:20])C1.C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C/C(=N\[O-:10])C(=O)CO.Nc1ccc2nc[n+:21]([H:20])cc2c1>>C/C(=N\[O:10][H:20])C(=O)CO.Nc1ccc2nc[n:21]cc2c1 10=20;20,21=21",
"C1CCC(C[NH2:10])CC1.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C1CCC(C[NH2+:10][H:20])CC1.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC=[O+:21][H:20].O=C(c1csc2ccccc12)[O-:10]>>CC=[O:21].O=C(c1csc2ccccc12)[O:10][H:20] 10=20;20,21=21",
"C1CCC[NH:10]CCC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH:21](C#N)[H:20])C=C1>>C1CCC[NH+:10]([H:20])CCC1.CS(=O)(=O)C1=CC([N+](=O)[O-])=C([CH-:21]C#N)C=C1 10=20;20,21=21",
"CC(=NO)C(=O)[N-:10]O.CC(C)(C)S/C(c1ccccc1)=[NH+:21]/[H:20]>>CC(=NO)C(=O)[N:10](O)[H:20].CC(C)(C)SC(c1ccccc1)=[NH:21] 10=20;20,21=21",
